US07115750B1
2-(4-Aminophenyl)-N-[2-(dimethylamino)ethyl]acetamide
Pd-C (1 g) was added to a methanol (140 ml) solution of benzyl 4-[2-[[2-(dimethylamino)ethyl]amino]-2-oxoethyl]phenylcarbamate (10 g), which was stirred under hydrogen atmosphere for 1 hour. Pd-C was removed, and the filtrate was concentrated. The residue was purified by alumina column chromatography (development solvent; ethyl acetate:hexane=1:1), to give the titled compound (6.63 g) as an oily substance.

reactant | benzyl 4-[2-[[2-(dimethylamino)ethyl]amino]-2-oxoethyl]phenylcarbamate | 10 g | CN(CCNC(CC1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O)=O)C | C20H25N3O3
catalyst | Pd-C | 1 g | [Pd] | Pd
solvent | methanol | 140 ml | CO | CH4O
product | 2-(4-Aminophenyl)-N-[2-(dimethylamino)ethyl]acetamide | 6.63 g | NC1=CC=C(C=C1)CC(=O)NCCN(C)C | C12H19N3O
